US08071584B2
5-[5-(1-Azetidinylmethyl)-3-thienyl]-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide
3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide (30 mg, 0.070 mmol) was dissolved in dimethyl sulfoxide (1.5 mL) and put in a microwave vial. The mixture was stirred and 1-2 drops of acetic acid and azetidine (0.047 mL, 0.697 mmol) was added. The mixture was left stirring 30 minutes at 23° C., before adding sodium triacetoxyborohydride polymer bound (299 mg, 0.697 mmol). The vial was sealed using a silicon septum, and the mixture left stirring 16 h at 23° C. Based on LCMS only 60-70% of conversion was observed. The sodium triacetoxyborohydride polymer bound was removed by filtration. The crude product was purified by preparative HPLC (NH4OH buffer). The desired fractions were concentrated, giving 12 mg of the title compound.

reactant | 3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide | 0.070 mmol, 30 mg | CC1(S(CCC(C1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)C=O)C(=O)N)(=O)=O)C | C21H22N2O4S2
reactant | azetidine | 0.697 mmol, 0.047 mL | N1CCC1 | C3H7N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dimethyl sulfoxide | 1.5 mL | CS(=O)C | C2H6OS
catalyst | acetic acid | 1-2 drops | C(C)(=O)O | C2H4O2
product | 5-[5-(1-Azetidinylmethyl)-3-thienyl]-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 12 mg | N1(CCC1)CC1=CC(=CS1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CC(S(CC1)(=O)=O)(C)C | C24H29N3O3S2
